US06307047B1
2-(3-Trifluoromethylphenyl)-4-(4-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to Example 93, starting with 4-(4-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3-3(2H)-pyridazinone and substituting 3-iodobenzotrifluoride in place of 4-bromothioanisole (yield: 210 mg, 59.5%). mp 103-105° C. 1H NMR (300 MHz, CDCl3) δ 3.08 (s, 3H), 7.18 (d, J=9 Hz, 2H), 7.28 (d, J=9 Hz, 2H), 7.41 (d, J=9 Hz, 2H), 7.65 (m, 2H), 7.95 (m, 3H), 8.04 (m, 2H). MS (DCI/NH3) m/z 505 (M+H)+, 525 (M+NH4)+. Anal. calc. for C24H16ClF3N2O3S: C, 57.14; H, 5.56. Found: C, 56.61; H, 3.28; N, 5.38.

reactant | 4-(4-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | ClC1=CC=C(C=C1)C=1C(NN=CC1C1=CC=C(C=C1)S(=O)(=O)C)=O | C17H13ClN2O3S
reactant | 3-iodobenzotrifluoride | IC=1C=C(C=CC1)C(F)(F)F | C7H4F3I
reactant | NH3 | N | H3N
product | 2-(3-Trifluoromethylphenyl)-4-(4-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC(C=1C=C(C=CC1)N1N=CC(=C(C1=O)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)S(=O)(=O)C)(F)F | C24H16ClF3N2O3S
